US06653295B2
H-Glu(OtBu)-Val-Val-Pro-OH was prepared by dissolving Z-Glu(OtBu)-Val-Val-Pro-OBzl (2.90 g, 3.89 mmol) in 100 mL methanol containing 1% acetic acid. Pearlman's catalyst, Pd(OH)2, (100 mg) was added and the flask was placed on the Parr hydrogenation apparatus with an initial H2 pressure of 34 psi. After three hours, the catalyst was removed by filtration through a celite pad and the filtrate was evaporated in vacuo to yield a yellow oil (1.30 g, 2.61 mmol, 67%). ESI/MS calculated for C24H42N4O7+H: 499.3 Found: 499.4.

reactant | Z-Glu(OtBu)-Val-Val-Pro-OBzl | 3.89 mmol, 2.90 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OCC1=CC=CC=C1 | C39H54N4O9
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pearlman's catalyst | [OH-].[OH-].[Pd+2]
catalyst | Pd(OH)2 | 100 mg | [OH-].[OH-].[Pd+2]
product | H-Glu(OtBu)-Val-Val-Pro-OH | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1 | C24H42N4O7
